US06573273B1
Using the general method of Example 149, 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.53 g, 5.11 mmol) was reacted with propyl isothiocyanate (570 mg, 5.62 mmol) to provide 950 mg of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}N′-propylthiourea as a tan powder, m.p. 172-173° C. Analysis: Calculated for C20H28N6OS: %C, 59.97; %H, 7.05; %N, 20.98; Found: %C, 59.83; %H, 7.01; %N, 20.95.

reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.11 mmol, 1.53 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | propyl isothiocyanate | 5.62 mmol, 570 mg | C(CC)N=C=S | C4H7NS
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}N′-propylthiourea | 950 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=S)NCCC)CCOC | C20H28N6OS
